US05198449
3-[2-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]ethyl]2,4(1H,3H)quinazolinedione dihydrochloride
A mixture of 2.89 g (7.52 mmol) of N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate, 1.74 g (7.75 mmol) of 3-(2-chloroethyl)-2,4(1H,3H)quinazolinedione, 7.56 g (90 mmol) of sodium bicarbonate, and 0.20 g (1.20 mmol) of potassium iodide in 250 mL of 1-butanol was heated at reflux for 20 h. The solvent was removed in vacuo, and the residue was partitioned between CH2Cl2 and dilute NaOH. The organic phase was dried (Na2SO4), and the solvent was removed in vacuo. The residue was subjected to flash chromatography (silica gel, eluted with 1-3% CH3OH in CH2Cl2) to give the free base of the product. This was converted to the HCl salt, and the salt was recrystallized from CH3OH/diethyl ether to give 1.80 g (42.7%) of the title compound as a white solid, mp 213°-220° C.

reactant | N,α-bis(4-fluorophenyl)-4-piperidinemethanamine hydrochloride hydrate | 7.52 mmol, 2.89 g | O.Cl.FC1=CC=C(C=C1)NC(C1CCNCC1)C1=CC=C(C=C1)F
reactant | 3-(2-chloroethyl)-2,4(1H,3H)quinazolinedione | 7.75 mmol, 1.74 g | ClCCN1C(NC2=CC=CC=C2C1=O)=O | C10H9ClN2O2
reactant | sodium bicarbonate | 90 mmol, 7.56 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 1.20 mmol, 0.20 g | [I-].[K+]
reactant | HCl | Cl | ClH
solvent | 1-butanol | 250 mL | C(CCC)O | C4H10O
product | 3-[2-[4-[(4-Fluorophenyl)[(4-fluorophenyl)amino]methyl]-1-piperidinyl]ethyl]2,4(1H,3H)quinazolinedione dihydrochloride | 1.80 g, 42.7% | Cl.Cl.FC1=CC=C(C=C1)C(C1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O)NC1=CC=C(C=C1)F | InChI=1S/C28H28F2N4O2.2ClH/c29-21-7-5-19(6-8-21)26(31-23-11-9-22(30)10-12-23)20-13-15-33(16-14-20)17-18-34-27(35)24-3-1-2-4-25(24)32-28(34)36;;/h1-12,20,26,31H,13-18H2,(H,32,36);2*1H
